US05043330
Tetraethyl 3,5-ditertiarybutyl-4-hydroxyphenylthio-methylenediphosphonate
To a solution of tetraethyl methylenediphosphonate (2.43 g, 8.43 mmol) in 15 ml dry tetrahydrofuran were added 5.3 ml (8.43 mmol) of 1.6 M n-butyllithium in hexane at -78° under nitrogen. To the above solution were then added 15 ml of a tetrahydrofuran solution of 4.0 g (8.43 mmol) of bis(3,5-ditertiary-butyl-4-hydroxyphenyl)disulfide, prepared according to T. Fujisawa et al., Synthesis 1972, p. 624-625. The mixture was maintained at -78° C. for 1 h and then stirred at 25° C. for 3 days. Hydrolysis was performed with 20 ml saturated NH4Cl solution and the mixture was extracted with 3×40 ml diethyl ether. The organic phase was dried over MgSO4, evaporated and the residue was purified by column chromatography (SiO2, 95/5 CH2Cl2/MeOH). It was obtained 2.2 g (4.2 mmol) of a yellow oil which slowly crystallized; yield=49 %.

reactant | tetraethyl methylenediphosphonate | 8.43 mmol, 2.43 g | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | n-butyllithium | 8.43 mmol, 1.6 M, 5.3 ml | C(CCC)[Li]
reactant | bis(3,5-ditertiary-butyl-4-hydroxyphenyl)disulfide | 8.43 mmol, 4.0 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SSC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C28H42O2S2
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Tetraethyl 3,5-ditertiarybutyl-4-hydroxyphenylthio-methylenediphosphonate | 4.2 mmol, 2.2 g, yield=49 % | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C23H42O7P2S
